US07829580B2
(Z)-3-{[1-(Carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 4-5)
To a solution of (Z)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride (309 mg) was added 3N hydrochloric acid (10 ml), and the mixture was stirred at 60° C. for 1 hour. After the mixture was concentrated under reduced pressure, the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 40/60, v/v) to afford the title compound (227 mg, yield: 67%) as a colourless crystalline solid.

reactant | (Z)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 309 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C/C(/C(CC1)S)=C/C1=NN(C=C1)CC(=O)OCC)=O
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (Z)-3-{[1-(Carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 227 mg, yield: 67% | Cl.C(=O)(O)CN1N=C(C=C1)\C=C/1\CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H24FN3O3S.ClH/c23-18-4-2-1-3-17(18)21(22(29)14-5-6-14)25-9-8-19(30)15(12-25)11-16-7-10-26(24-16)13-20(27)28;/h1-4,7,10-11,14,19,21,30H,5-6,8-9,12-13H2,(H,27,28);1H/b15-11-;
